US09120825B2
In an argon atmosphere, 6.22 g (26.7 mmol) of Si(tBuNCHCHNtBu)(H)Cl was dissolved in 30 mL of hexane and after adding 3.14 g (56.0 mmol) of cyclopropylamine, the mixture was stirred at room temperature for 3 hours. Insoluble matters produced were separated by filtration, and the solvent was removed by distillation from the filtrate under atmospheric pressure. The obtained residue was distilled under reduced pressure (distillation temperature: 100° C./3.7×102 Pa) to obtain 1,3-di-tert-butyl-2-cyclopropylamino-1,3-diaza-2-silacyclopent-4-ene (Si(tBuNCHCHNtBu)(H)NHcPr) as a colorless liquid (yielded amount: 6.07 g, yield: 90%).

reactant | 2-chloro-1,3-di-tert-butyl-1,3-diaza-2-silacyclopent-4-ene | 26.7 mmol, 6.22 g | Cl[SiH]1N(C=CN1C(C)(C)C)C(C)(C)C | C10H21ClN2Si
reactant | cyclopropylamine | 56.0 mmol, 3.14 g | C1(CC1)N | C3H7N
solvent | hexane | 30 mL | CCCCCC | C6H14
product | 1,3-di-tert-butyl-2-cyclopropylamino-1,3-diaza-2-silacyclopent-4-ene | yield: 90% | C(C)(C)(C)N1[SiH](N(C=C1)C(C)(C)C)NC1CC1 | C13H27N3Si
